### PR TITLE
Preservation for function

### PR DESCRIPTION
**Pull request by YuliaKorolenko**

### CODE REVIEW

**Comment by jesyspa** [comment]
Please review amongst yourselves

**Review by Daoortor — APPROVED** [review]

File: LocalLang/TypingGuarantees.lean [hunk 1]
```diff
@@ -2,17 +2,118 @@ import LocalLang.AST
 import LocalLang.Semantics
 import LocalLang.Types
 import LocalLang.Typing
+import LocalLang.Weakening
 
-def EnvRespectsCtx (Γ : TypeContext) (V : Env) : Prop := sorry
+def EnvRespectsCtx (Γ : TypeContext) (V : Env) : Prop :=
```
Comment (Daoortor) [inline LocalLang/TypingGuarantees.lean]: TypeContextRespectsEnv could've been a better name, since the name Ctx is already reserved for a different thing, and here, TypeContext is a "superset" of Env, not vice versa

File: LocalLang/TypingGuarantees.lean [hunk 2]
```diff
@@ -2,17 +2,118 @@ import LocalLang.AST
...
+  ∀ (x : String) (v : Value), V[x]? = v → ∃ ty, Γ[x]? = some ty ∧ v.TypeJdg ty
 
--- TODO: prove
--- TODO: V and Γ should be related
-theorem preservation (Γ : TypeContext) (e e' : Expr) (ty : LLType)
-    (h_env_respects : EnvRespectsCtx Γ V)
-  : Expr.TypeJdg Γ e ty → HeadSmallStep V e e' → Expr.TypeJdg Γ e' ty := sorry
+def CtxRespectsEnv (V : Env) (Γ : TypeContext) : Prop :=
```
Comment (Daoortor) [inline LocalLang/TypingGuarantees.lean]: Same as above

File: LocalLang/Weakening.lean [hunk 3]
```diff
@@ -0,0 +1,52 @@
...
+    (h : TypeContext.subcontext Γ₁ Γ₂) :
+    TypeContext.subcontext (Γ₁.insert name ty) (Γ₂.insert name ty) := by
+    simp [TypeContext.subcontext]
+    intro name_x ty_x lookup_x
+    rw [Std.HashMap.getElem?_insert]
+    rw [Std.HashMap.getElem?_insert] at lookup_x
+    simp [TypeContext.subcontext] at h
+    split <;> simp_all
+
+theorem Empty_subcontext (Γ : TypeContext) : TypeContext.subcontext {} Γ
```
Comment (Daoortor) [inline LocalLang/Weakening.lean]: Please follow Mathlib naming conventions:
https://leanprover-community.github.io/contribute/naming.html

**Review by Daoortor — CHANGES_REQUESTED** [review]

File: LocalLang/TypingGuarantees.lean [hunk 4]
```diff
@@ -4,10 +4,10 @@ import LocalLang.Types
 import LocalLang.Typing
 import LocalLang.Weakening
 
-def EnvRespectsCtx (Γ : TypeContext) (V : Env) : Prop :=
+def TypeContextRespectsEnv (Γ : TypeContext) (V : Env) : Prop :=
```
Comment (Daoortor) [inline LocalLang/TypingGuarantees.lean]: I think it would make sense to make them member functions (e. g. G.respectsEnv V), so using it is more readable and concise.

File: LocalLang/TypingGuarantees.lean [hunk 5]
```diff
@@ -4,10 +4,10 @@ import LocalLang.Types
...
   ∀ (x : String) (v : Value), V[x]? = v → ∃ ty, Γ[x]? = some ty ∧ v.TypeJdg ty
 
-def CtxRespectsEnv (V : Env) (Γ : TypeContext) : Prop :=
+def EnvRespectsTypeCotext (V : Env) (Γ : TypeContext) : Prop :=
```
Comment (Daoortor) [inline LocalLang/TypingGuarantees.lean]: Typo

File: LocalLang/TypingGuarantees.lean [hunk 6]
```diff
@@ -2,17 +2,113 @@ import LocalLang.AST
...
+theorem addBindings_typing (Γ : TypeContext) {ps : List String} {es : List Expr}
+                           (bd : Expr) (ty : LLType)
+                           (H_len : ps.length = es.length) (arg_types : List LLType)
+  (H_args : Expr.TypeJdgList Γ es arg_types)
+  (body_jdg : Expr.TypeJdg Γ (Expr.value (Value.closure ps bd)) (LLType.func arg_types ty))
+  : Expr.TypeJdg Γ (Expr.addBindings ps es bd H_len) ty := by
+  generalize qs_equality : (ps.zip es) = qs
+  induction qs generalizing ps es bd arg_types with
+  | nil =>
+          simp [Expr.addBindings]
```
Comment (Daoortor) [inline LocalLang/TypingGuarantees.lean]: Try to avoid terminal simps: https://leanprover-community.github.io/extras/simp.html#non-terminal-simps
You can try to fix these by changing to `simp only`and possibly adding more hypotheses/lemmas. In cases where you cannot do it right away, you can leave it as it is – I don't think it's too much of an issue for now

**Review by Daoortor — CHANGES_REQUESTED** [review]

File: LocalLang/TypingGuarantees.lean (hunk 6 above)
Comment (YuliaKorolenko) [reply LocalLang/TypingGuarantees.lean]: I rewrote some of them

**Review by Daoortor — APPROVED** [review]
